US06930109B2
(6R)-(7,8-Dihydro-6H-5-oxa-1-aza-phenanthren-6-yl)-methanol
To a solution of (6R)-6-(tert-butyl-dimethyl-silanyloxymethyl)-7,8-dihydro-6H-5-oxa-1-aza-phenanthrene (0.60 g, 1.82 mmole) in tetrahydrofuran (50 mL) was added tetra-n-butylammonium fluoride (2 mL, 1M in THF). The reaction mixture was stirred for 20 minutes, then diluted with ethyl acetate and washed with water, dried over sodium sulfate, and the solvent removed in vacuum. The residue was purified by column chromatography on silica gel (50% methylene chloride/hexane) to afford 0.38 g (98%) of the title compound as a white solid, mp 128° C., [α]25D=+113.81° (c=5.9, CHCl3).

reactant | (6R)-6-(tert-butyl-dimethyl-silanyloxymethyl)-7,8-dihydro-6H-5-oxa-1-aza-phenanthrene | 1.82 mmole, 0.60 g | C(C)(C)(C)[SiH2]OC([C@@H]1OC2=C3C=CC=NC3=CC=C2CC1)(C)C | C19H27NO2Si
reactant | tetra-n-butylammonium fluoride | 1M, 2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6R)-(7,8-Dihydro-6H-5-oxa-1-aza-phenanthren-6-yl)-methanol | 0.38 g, 98% | N1=CC=CC2=C3O[C@H](CCC3=CC=C12)CO | C13H13NO2
